US07714126B2
With a procedure similar to example 1 above, 2-(2-methoxy-phenyl)-4-trifluoromethyl-oxazole-5-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide was prepared from 2-(2-methoxy-phenyl)-4-trifluoromethyl-oxazole-5-carboxylic acid and N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C21H21F3N4O4 (m/e) 450, obsd 451 (M+H).

reactant | 2-(2-methoxy-phenyl)-4-trifluoromethyl-oxazole-5-carboxylic acid | COC1=C(C=CC=C1)C=1OC(=C(N1)C(F)(F)F)C(=O)O | C12H8F3NO4
reactant | N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine | COCCN(C1=NC=C(C=C1)N)C | C9H15N3O
product | 2-(2-methoxy-phenyl)-4-trifluoromethyl-oxazole-5-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | COCCN(C1=CC=C(C=N1)NC(=O)C1=C(N=C(O1)C1=C(C=CC=C1)OC)C(F)(F)F)C | C21H21F3N4O4
